US04906628
7-(4-Oxo-1,4-dihydropyridin-1-yl)-[5H]indeno[1,2-c]pyridazin-3(2H)-one
A stirred mixture of 7-amino-[5H]indeno[1,2-c]pyridazin-3(2H)-one hydrochloride (1.0 g) and 4H-pyran-4-one (0.48 g) in water (10 ml) was heated under reflux for 1 hour in a nitrogen atmosphere. The warm mixture was neutralised with aqueous ammonia to give a solid, 0.9 g, m.p. >300° C. This solid was triturated with warm dilute hydrochloric acid and washed with water to give the title compound, 0.42 g, m.p. >300° C.

reactant | 7-amino-[5H]indeno[1,2-c]pyridazin-3(2H)-one hydrochloride | 1.0 g | Cl.NC=1C=C2CC=3C(=NNC(C3)=O)C2=CC1
reactant | 4H-pyran-4-one | 0.48 g | O1C=CC(C=C1)=O | C5H4O2
reactant | ammonia | N | H3N
solvent | water | 10 ml | O | H2O
product | 7-(4-Oxo-1,4-dihydropyridin-1-yl)-[5H]indeno[1,2-c]pyridazin-3(2H)-one | O=C1C=CN(C=C1)C=1C=C2CC=3C(=NNC(C3)=O)C2=CC1 | C16H11N3O2
